US09359371B2
Preparation: N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide (Compound 21)
In absolute anhydrous THF (15 mL) were dissolved N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-formamide (180 mg, 0.41 mmol) and 5-azaspiro[2.4]heptane (59 mg, 0.61 mmol). The solution was cooled in an ice bath, and triethylamine (82 mg, 0.82 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 8 h then was quenched with water. The reaction mixture was extracted with DCM. The organic phase was dried over sodium sulfate and concentrated. The obtained solid was purified by silica gel column chromatography (DCM/methanol=50/1) to give the product as a solid (35 mg, 18% yield).

reactant | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-formamide | 0.41 mmol, 180 mg | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)S(=O)C)NCC1=CC(=C(C=C1)OC)Cl | C21H21ClN4O3S
reactant | 5-azaspiro[2.4]heptane | 0.61 mmol, 59 mg | C1CC12CNCC2 | C6H11N
reactant | triethylamine | 0.82 mmol, 82 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-benzyl-4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-formamide | 35 mg, 18% yield | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N1CC2(CC2)CC1)NCC1=CC(=C(C=C1)OC)Cl | C26H28ClN5O2
